US07645789B2
To a solution of 2-(1-methylcyclopropyl)-5-nitro-1H-indole (0.70 g, 3.2 mmol) in EtOH (20 mL) was added Raney Nickel (100 mg) under nitrogen atmosphere. The mixture was stirred under hydrogen atmosphere (1 atm) at room temperature overnight. The catalyst was filtered off through a celite pad and the filtrate was evaporated under vacuum. The residue was purified by column chromatography on silica gel (petroleum ether/ethyl acetate=5/1) to afford 2-(1-methyl-cyclopropyl)-1H-indol-5-ylamine (170 mg, 28%). 1H NMR (400 MHz, CDCl3) δ 7.65 (brs, 1H), 7.08 (d, J=8.4 Hz, 1H), 6.82 (s, 1H), 6.57 (d, J=8.4 Hz, 1H), 6.14 (s, 1H), 3.45 (brs, 2H), 1.47 (s, 3H), 0.82-0.78 (m, 2H), 0.68-0.63 (m, 2H).

reactant | 2-(1-methylcyclopropyl)-5-nitro-1H-indole | 3.2 mmol, 0.70 g | CC1(CC1)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C12H12N2O2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Raney Nickel | 100 mg | [Ni] | Ni
product | 2-(1-methyl-cyclopropyl)-1H-indol-5-ylamine | 170 mg, 28% | CC1(CC1)C=1NC2=CC=C(C=C2C1)N | C12H14N2
